US08071766B2
2-((Z)—((R)-2-amino-7-(4-fluoro-2-(6-methoxypyridin-2-yl)phenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidin-5(6H)-ylidene)aminooxy)-4-methoxy-N,N-dimethylbutanamide (Compound 95)
To a solution of 2-((Z)—((R)-2-amino-7-(4-fluoro-2-(6-methoxypyridin-2-yl)phenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidin-5(6H)-ylidene)aminooxy)-4-hydroxy-N,N-dimethylbutanamide (0.03 mmol, 16 mg) in THF (2 mL) was added 50% NaH (0.034 mmol, 1.65 mg) at 0° C. under N2 atmosphere. The reaction mixture was stirred for 15 minutes and dimethyl sulphate (4.08 μL, 0.043 mmol) was added. The reaction mixture was stirred at r.t. for 3 h. Quenched with MeOH (1 mL) and purified by LCMS to afford the title compound 2-((Z)—((R)-2-amino-7-(4-fluoro-2-(6-methoxypyridin-2-yl)phenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidin-5(6H)-ylidene)aminooxy)-4-methoxy-N,N-dimethylbutanamide (95, 3.6 mg, 25%) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ 1.81-2.06 (m, 2H) 2.47 (s, 3H) 2.70-2.80 (m, 1H) 2.83 (d, J=10.61 Hz, 3H) 3.05 (d, J=7.58 Hz, 3H) 3.07-3.17 (m, 1H) 3.20 (d, J=4.80 Hz, 3H) 3.31-3.39 (m, 2H) 3.40-3.49 (m, 2H) 3.87 (d, J=3.79 Hz, 3H) 4.80-4.93 (m, 1H) 5.06-5.22 (m, 1H) 6.83-6.90 (m, 1H) 7.20 (d, J=8.84 Hz, 1H) 7.23-7.32 (m, 2H) 7.44 (ddd, J=14.34, 8.91, 5.81 Hz, 1H) 7.85 (td, J=7.83, 3.28 Hz, 1H). MS (ES) [M+H] calculated for C27H33FN7O4, 538.58. found 538.40.

reactant | 2-((Z)—((R)-2-amino-7-(4-fluoro-2-(6-methoxypyridin-2-yl)phenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidin-5(6H)-ylidene)aminooxy)-4-hydroxy-N,N-dimethylbutanamide | 0.03 mmol, 16 mg | NC=1N=C(C/2=C(N1)C[C@@H](N\C2=N/OC(C(=O)N(C)C)CCO)C2=C(C=C(C=C2)F)C2=NC(=CC=C2)OC)C | C26H30FN7O4
reactant | NaH | 0.034 mmol, 1.65 mg | [H-].[Na+]
reactant | dimethyl sulphate | 0.043 mmol, 4.08 μL | S(=O)(=O)(OC)OC | C2H6O4S
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-((Z)—((R)-2-amino-7-(4-fluoro-2-(6-methoxypyridin-2-yl)phenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidin-5(6H)-ylidene)aminooxy)-4-methoxy-N,N-dimethylbutanamide | 3.6 mg, 25% | NC=1N=C(C/2=C(N1)C[C@@H](N\C2=N/OC(C(=O)N(C)C)CCOC)C2=C(C=C(C=C2)F)C2=NC(=CC=C2)OC)C | C27H32FN7O4
